US07635715B2
Step A: Preparation of Ethyl 6′-chloro-4′-hydroxy-2′-oxo-spiro[cyclopentane-1,1′-naphthalen]-3′-carboxylate
A mixture of diethyl malonate (5.3 g, 33 mmol) and magnesium (0.80 g, 33 mmol) was treated with anhydrous EtOH 10 mL and 0.1 mL CCl4. The mixture was stirred at room temperature for 20 minutes and was then diluted with 50 mL anhydrous ether and refluxed for 1 hour under nitrogen. 1-(4-Chlorophenyl)cyclopentanecarbonyl chloride (7.3 g, 30 mmol) in 20 mL ether was then added dropwise to the above refluxed mixture, and the resulting mixture was refluxed for 20 minutes, M+1=341. The mixture was cooled to room temperature, diluted with 100 mL ether, washed with H2O (2×50 mL) and brine (20 mL), dried over anhydrous Na2SO4, and concentrated in vacuo to give 11 g of the crude product as a pale yellow solid. The crude product was treated with concentrated H2SO4 (48 mL, 900 mmol) and stirred for 4 hours, M+1=321. The mixture was poured into 500 g ice and extracted with ether (3×100 mL). The organic layers were combined and washed with H2O (20 mL) and brine (20 mL), dried over anhydrous Na2SO4, concentrated in vacuo, and purified by column chromatography eluting with 10-20% ether/hexane to give the title compound (6.5 g) as a pale yellow solid. MS (m/z)=321 (M+H)+.

reactant | diethyl malonate | 33 mmol, 5.3 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | magnesium | 33 mmol, 0.80 g | [Mg] | Mg
reactant | 1-(4-Chlorophenyl)cyclopentanecarbonyl chloride | 30 mmol, 7.3 g | ClC1=CC=C(C=C1)C1(CCCC1)C(=O)Cl | C12H12Cl2O
reactant | H2SO4 | 900 mmol, 48 mL | OS(=O)(=O)O | H2O4S
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | CCl4 | 0.1 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | EtOH | 10 mL | CCO | C2H6O
product | Ethyl 6′-chloro-4′-hydroxy-2′-oxo-spiro[cyclopentane-1,1′-naphthalen]-3′-carboxylate | 6.5 g | ClC=1C=C2C(=C(C(C3(C2=CC1)CCCC3)=O)C(=O)OCC)O | C17H17ClO4
